US09376454B2
Step 2. Synthesis of 2-Hydroxy-3-[(1H-indole-5-carbonyl)-amino]-3,4-dihydro-2H-1-oxa-2-bora-naphthalene-8-carboxylic acid
Prepared from 3-[2-[(1H-Indole-5-carbonyl)-amino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester and BCl3 following the procedure described in Step 2 of Example 3. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 351.0 (MH)+.

reactant | 3-[2-[(1H-Indole-5-carbonyl)-amino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(=O)C=3C=C1C=CNC1=CC3)OC)=O | C33H41BN2O6
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | 2-Hydroxy-3-[(1H-indole-5-carbonyl)-amino]-3,4-dihydro-2H-1-oxa-2-bora-naphthalene-8-carboxylic acid | OB1OC2=C(C=CC=C2CC1NC(=O)C=1C=C2C=CNC2=CC1)C(=O)O | C18H15BN2O5
